US05552427
2-Amino-1-methylimidazole hydrochloride (0.3 g) was dissolved in 1N sodium hydroxide solution (5 ml ). Benzyloxycarbonyl chloride (0.43 g) and ether (2 ml ) were added, and the mixture was stirred for 1 hour. The product was extracted with ethyl acetate, the extract was washed with water and aqueous saturated sodium chloride solution and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. Diethyl ether-hexane was added to the resulting residue for crystallization, and the crystals were separated by filtration. The crystals of 2-benzyloxycarbonylamino-1-methylimidazole thus obtained was dissolved in chloroform, and 4N hydrochloric acid-ethyl acetate (0.5 ml) was added to form its hydrochloric acid salt. The crude crystals thus obtained were washed with ether to give 2-benzyloxycarbonylamino-1-methylimidazole hydrochloride (0.2 g, Yield: 30% ) as white powder.

reactant | 2-Amino-1-methylimidazole hydrochloride | 0.3 g | Cl.NC=1N(C=CN1)C
reactant | Benzyloxycarbonyl chloride | 0.43 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | ether | 2 ml | CCOCC | C4H10O
solvent | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
product | 2-benzyloxycarbonylamino-1-methylimidazole | C(C1=CC=CC=C1)OC(=O)NC=1N(C=CN1)C | C12H13N3O2
